US06124323
4-Benzyl-1-(2-(2-thioxobenzimidazol-5-oxy)ethyl)piperidine
A mixture of 4-benzyl-1-[(3,4-diaminophenoxy)ethyl]piperidine (326 mg, 1.0 mmol), KOH (66 mg, 1.1 mmol) and CS2 (66 μL, 1.1 mmol) in 95% EtOH (1.5 mL) and H2O (0.2 mL) was refluxed for 3 h, then evaporated, and the residue was purified by chromatography over silica gel (CHCl3 --MeOH, 4:1) to give 250 mg (68%) of the title compound as a foam solid. 1H NMR (DMSO-d6): 1.40-1.48 (m, 2H), 1.54-1.61 (m, 1H), 1.67-1.71 (m, 2H), 2.09-2.18 (m, 2H), 2.517 (d, 2H, J=6), 2.841 (t, 2H, J=5), 3.17-3.20 (m,2H), 4.139 (t, 2H, J=5), 6.551 (d, 1H, J=2), 6.605 (dd, 1H, J=8.5; 2), 6.950 (d, 1H, J=8.5), 7.11-7.28 (m, 5H). The hydrochloride, mp. 273-5° C. Analysis, Calcd. for C21H26ClN3OS: C 62.44, H 6.49, N 10.40; Found: C 62.28, H 6.42, N 10.21.

reactant | 4-benzyl-1-[(3,4-diaminophenoxy)ethyl]piperidine | 1.0 mmol, 326 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC(=C(C=C1)N)N | C20H27N3O
reactant | KOH | 1.1 mmol, 66 mg | [OH-].[K+]
reactant | CS2 | 1.1 mmol, 66 μL | C(=S)=S | CS2
solvent | EtOH | 1.5 mL | CCO | C2H6O
solvent | H2O | 0.2 mL | O | H2O
product | 4-Benzyl-1-(2-(2-thioxobenzimidazol-5-oxy)ethyl)piperidine | 250 mg, 68% | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC=2C(=NC(N2)=S)C=C1 | C21H23N3OS
